US04959385
To 97.5 cc of a 1.6M solution of n-butyllithium in hexane maintained in an atmosphere of argon at a temperature of about -60° C., add, dropwise, over 15 minutes, a solution of 16 g of di-isopropylamine in 90 cc of a mixture of anhydrous hexamethylphosphoric triamide and anhydrous tetrahydrofuran (47:53 v/v) and stir the mixture for 10 minutes. Then add, dropwise, over 15 minutes, a solution of 22.5 g of 2-phenyltetrahydrothiophene-1-oxide in 90 cc of the mixture of anhydrous hexamethylphosphoric triamide and anhydrous tetrahydrofuran (47:53 v/v) and continue to stir the mixture for 20 minutes. Then add, dropwise, over 15 minutes, a solution of 13.6 g of methyl isothiocyanate in 55 cc of the mixture of anhydrous hexamethylphosphoric triamide and anhydrous tetrahydrofuran (47:53 v/v) and continue to stir the mixture for 2 hours, allowing the temperature to increase progressively to 20° C. The reaction mixture is taken up with 450 cc of distilled water and 225 cc of ethyl acetate. The crystals formed are separated by filtration, washed twice with 30 cc (60 cc in total) of ethyl acetate, with 30 cc of di-isopropyl oxide and dried under reduced pressure (15 mm Hg; 2 kPa) at 20° C. A first batch of 16.3 g is thus obtained. The filtrate is separated and the organic phase is washed three times with 50 cc (150 cc in total) of distilled water, dried over anhydrous sodium sulphate, filtered and concentrated to dryness under reduced pressure (15 mm Hg; 2kPa) at 50° C. 30 cc of ethyl acetate is added to the product obtained and the crystals formed are separated by filtration, washed twice with 5 cc (10 cc in total) of di-isopropyl oxide and dried under reduced pressure (15 mm Hg; 2 kPa) at 20° C. A second batch of 1 g is thus obtained. Both batches (17.3 g) are mixed with 0.7 g of the same product, prepared beforehand under the same conditions and dissolved in 500 cc of boiling ethanol. Activated charcoal is added to the solution thus obtained; the solution is filtered while hot, cooled, then set aside for 15 hours at a temperature of about 5° C. The crystals formed are separated by filtration, washed with 20 cc of ethanol, then twice with 25 cc (50 cc in total) of di-isopropyl oxide and dried under reduced pressure (1 mm Hg; 0.13 kPa) at 50° C. 15 g of N-methyl-2-phenyltetrahydrothiophene-2-carbothioamide-1-oxide, with a melting point of 236° C., is thus obtained.

reactant | n-butyllithium | C(CCC)[Li]
reactant | di-isopropylamine | 16 g | C(C)(C)NC(C)C | C6H15N
reactant | 2-phenyltetrahydrothiophene-1-oxide | 22.5 g | C1(=CC=CC=C1)C1S(CCC1)=O | C10H12OS
reactant | methyl isothiocyanate | 13.6 g | CN=C=S | C2H3NS
reactant | charcoal | C | CH4
solvent | hexane | CCCCCC | C6H14
solvent | ethanol | 500 cc | C(C)O | C2H6O
solvent | ethyl acetate | 225 cc | C(C)(=O)OCC | C4H8O2
solvent | water | 450 cc | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | N-methyl-2-phenyltetrahydrothiophene-2-carbothioamide-1-oxide | 15 g | CNC(=S)C1(S(CCC1)=O)C1=CC=CC=C1 | C12H15NOS2
